US08058285B2
10.5 ml (10.5 mmol) 1 M sodium hydroxide solution is added to 2.00 g (4.2 mmol) 3-(3-benzoylthioureido)-4-methyl-6-phenyl-thieno[2,3-b]-pyridine-2-carboxylic acid ethyl ester in 25 ml ethanol and refluxed for 30 min. Following the addition of 10 ml N,N-dimethylformamide, 5 ml (5 mmol) sodium hydroxide solution (1M) and 0.50 ml iodoethane (6.2 mmol) the next step is stirring at room temperature for 30 min. The precipitate precipitated following acidification with dilute hydrochloric acid is sucked off, washed with water, suck dried and dried in vacuo at 50° C. 1.23 g (83%) 2-ethylthio-9-methyl-7-phenyl-pyrido[3′,2′:4,5]thieno-[3,2-d]pyrimidin-4-one is obtained.

reactant | sodium hydroxide | 10.5 mmol, 1 M, 10.5 ml | [OH-].[Na+]
reactant | 3-(3-benzoylthioureido)-4-methyl-6-phenyl-thieno[2,3-b]-pyridine-2-carboxylic acid ethyl ester | 4.2 mmol, 2.00 g | C(C)OC(=O)C1=C(C=2C(=NC(=CC2C)C2=CC=CC=C2)S1)NC(=S)NC(C1=CC=CC=C1)=O | C25H21N3O3S2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 5 mmol, 1M, 5 ml | [OH-].[Na+]
reactant | iodoethane | 6.2 mmol, 0.50 ml | ICC | C2H5I
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-ethylthio-9-methyl-7-phenyl-pyrido[3′,2′:4,5]thieno-[3,2-d]pyrimidin-4-one | 1.23 g, 83% | C(C)SC=1NC(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC=CC=C1)=O | C18H15N3OS2
